US07067517B2
4-Benzyl-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)phenyl ester
The hydrochloride of the title compound was prepared from 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-benzyl-piperazine, yield 94%. White crystals; m.p. 111–113° C. (resolidifies) and 114–115° C.; HPLC-MS m/z=492 (M+H).

reactant | 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H6Cl2F3NO3
reactant | 1-benzyl-piperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-Benzyl-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)phenyl ester | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C24H21ClF3N3O3
